US20010007873A1
Under a N2 atmosphere in 75 mL of anhydrous acetonitrile was combined 13.5 g (89.0 mmol) of 2-hydroxy4methoxybenzaldehyde (A)and 10.0 9 (178.0 mmol) of potassium hydroxide followed by 1.0 g (2.77 mmol) of dibenzo-18-crown-6. The reaction was allowed to stir for 2 hours. at which time 19.84 g (13.8 mls; 116 mmol) of benzyl bromide was added and stirring was continued for another 18 hours. The reaction mixture was partitioned between ether (200 ml) and water (150 ml). The aqueous layer was extracted with dietyl ether (1 X 200 mL) and the combined organic extracts were washed with 5% NaOH (1×100 mL) and brine (1×50 mL), dried over sodium sulfate, filtered and concentrated in vacuo (100° C. at 1 mm Hg) to yield crude product as a yellow oil. Chromatography on 300 g of silica gel 60 (EM Science) starting with 10:1 hexane:ethyl acetate and increasing the ethyl acetate concentration yielded 19.72 g (91%) of 2-benzyloxy4-methoxybenzaldehyde as a yellow oil.

reactant | 2-hydroxy4methoxybenzaldehyde | 89.0 mmol, 13.5 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | benzyl bromide | 116 mmol, 13.8 mls, 19.84 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hexane | CCCCCC | C6H14
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
catalyst | dibenzo-18-crown-6 | 2.77 mmol, 1.0 g | C1COC2=CC=CC=C2OCCOCCOC3=CC=CC=C3OCCO1 | C20H24O6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzyloxy4-methoxybenzaldehyde | 19.72 g, 91% | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1)OC | C15H14O3
